US07294616B2
2-Fluoro-4-nitro-1-phenoxybenzene and 7.2 g of 10% Pd/C were dissolved in 200 mL EtOH and stirred under 1 atmosphere of H2 overnight. The reaction mixture was filtered through Celite with the aid of 50 mL EtOH and concentrated to provide 3-fluoro-4-phenoxybenzenamine as an oil which was used in Step C without further purification.

reactant | 2-Fluoro-4-nitro-1-phenoxybenzene | FC1=C(C=CC(=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C12H8FNO3
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd/C | 7.2 g | [Pd] | Pd
product | 3-fluoro-4-phenoxybenzenamine | FC=1C=C(C=CC1OC1=CC=CC=C1)N | C12H10FNO
